US09388137B2
A 100 mL round bottom flask was charged with methyl 2-chloro-6-methylisonicotinate (3 g, 16.2 mmol), 2-[4-(4-fluoro-phenoxy)-phenyl pinacol boronate (5.1 g, 16.2 mmol), sodium carbonate (3.43 g, 32.4 mmol), PdCl2(PPh3)2 (569 mg, 0.81 mmol), DME (10 mL), EtOH (5 mL), and water (10 mL). The reaction mixture was heated to 80° C. for 16 h. The reaction mixture was then diluted with EtOAc (200 mL) and washed with 1M aq. HCl (2×200 mL). The organic layer was dried over MgSO4 and concentrated to a thick brown paste. The paste was suspended in EtOH (25 mL) and treated with 2N aq. NaOH (50 mL) at room temperature for 18 h, at which time the hydrolysis was complete. The mixture was concentrated under reduced pressure, suspended in water (50 mL), acidified with 4N aq. HCl (75 mL), and extracted with EtOAc (2×300 mL). The combined organic layers were dried over MgSO4 and concentrated to provide 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid as a waxy brown solid (4.28 g, 13.25 mmol). 1H NMR (d6-DMSO): 8.15-8.09 (m, 2 H), 8.08-8.04 (s, 1 H), 7.67-7.63 (s, 1H), 7.32-7.24 (m, 2 H), 7.20-7.13 (m, 2 H), 7.11-7.05 (m, 2 H), 2.65-2.60 (s, 3 H). LCMS: m/z=324 [M+H+]+. Unless otherwise indicated all 1H NMR chemical shifts reported herein are denoted by the delta (δ) scale.

reactant | methyl 2-chloro-6-methylisonicotinate | 16.2 mmol, 3 g | ClC=1C=C(C(=O)OC)C=C(N1)C | C8H8ClNO2
reactant | 4-(4-fluoro-phenoxy)-phenyl pinacol boronate | 16.2 mmol, 5.1 g | B(O)O.FC1=CC=C(OC2=CC=C(C=C2)CC(O)(C)C(C)(C)O)C=C1
reactant | sodium carbonate | 32.4 mmol, 3.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | 10 mL | COCCOC | C4H10O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.81 mmol, 569 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid | 13.25 mmol, 4.28 g | FC1=CC=C(OC2=CC=C(C=C2)C=2C=C(C(=O)O)C=C(N2)C)C=C1 | C19H14FNO3
